US05158946
(b) 7β-[2-(2-Aminothiazol-4-yl)-2-(Z)-hydroxyiminoacetamido]-3-(6-methyl-2-oxo-2H-pyran-4-ylthiomethyl)ceph-3-em-4-carboxylic Acid
Diphenylmethyl 3-(6-methyl-2-oxo-2H-pyran-4-ylthiomethyl)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetamido]ceph-3-em-4-carboxylate (969 mg) was dissolved in 100% formic acid (14.9 ml) and 1N hydrochloric acid (0.825 ml) and water (0.825 ml) were added. The mixture was stirred at room temperature for 0.5 h and then concentrated hydrochloric acid (0.66 ml) was added. The mixture was stirred for 1 h and then the solid was filtered off and washed with 90% formic acid. The combined filtrates were evaporated and a 1:1 mixture of toluene and tetrahydrofuran was evaporated from the residue twice. The residue was triturated with ether and the solid filtered off and washed with ether. The solid was suspended in water and the pH adjusted to 2.6 with 0.1N sodium hydroxide solution. The resulting solid was filtered off, washed with water and dried under vacuum to give the product. υmax (KBr) 1773, 1675 and 1624cm-1 ; δ[(CD3)2SO] 2.16 (3H, s), 3.47 (1H, d, J 17.9Hz), 3.70 (1H, d, J 18.0Hz), 4.11 (1H, d, J 12.9Hz), 4.19 (1H, d, J 13.1Hz), 5.18 (1H, d, J 4.8Hz), 5.79 (1H, dd, J 4.8 and 8.2Hz), 6.00 (1H, s), 6.21 (1H, s), 6.66 (1H, s), 7.17 (2H, s), 9.48 (1H, s).

reactant | Diphenylmethyl 3-(6-methyl-2-oxo-2H-pyran-4-ylthiomethyl)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetamido]ceph-3-em-4-carboxylate | 969 mg | CC1=CC(=CC(O1)=O)SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C70H55N5O7S3
reactant | hydrochloric acid | 1N, 0.825 ml | Cl | ClH
reactant | water | 0.825 ml | O | H2O
reactant | hydrochloric acid | 0.66 ml | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | formic acid | 14.9 ml | C(=O)O | CH2O2
product | 7β-[2-(2-Aminothiazol-4-yl)-2-(Z)-hydroxyiminoacetamido]-3-(6-methyl-2-oxo-2H-pyran-4-ylthiomethyl)ceph-3-em-4-carboxylic Acid | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=CC(OC(=C2)C)=O)C(=O)O)C1=O)=N/O | C19H17N5O7S3
